US04954518
29.2 g of 3-methylsulfonylamino-4-phenylaminoanisole, 18.6 g of ethanethiol and 300 ml of methylene chloride were mixed and then ice-cooled. To the mixture was added 40 g of aluminum chloride in 20 minutes. Stirring was conducted for 3 hours at 5°-10° C. The reaction mixture was introduced into 500 ml of ice water. The resulting organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order and then dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. Ethanol was added to the residue and the resulting crystal was filtered to obtain 23.9 g (yield: 86%) of 3-methylsulfonylamino-4-phenylaminophenol having a melting point of 184°-186° C. IR (KBr) cm-1 : 3425, 3380, 3250, 1600, 1490, 1310, 1150

reactant | 3-methylsulfonylamino-4-phenylaminoanisole | 29.2 g | CS(=O)(=O)NC=1C=C(C=CC1NC1=CC=CC=C1)OC | C14H16N2O3S
reactant | ethanethiol | 18.6 g | C(C)S | C2H6S
reactant | aluminum chloride | 40 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 3-methylsulfonylamino-4-phenylaminophenol | 23.9 g, yield: 86% | CS(=O)(=O)NC=1C=C(C=CC1NC1=CC=CC=C1)O | C13H14N2O3S
